US06376494B1
2.75 g (6.20 mmol) of the above-described (R)-{1-Cyclohexylmethyl-2-[4-(2-methoxyphenyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester was stirred overnight in a mixture of 30 mL of peroxide-free dioxane and 30 mL of 6N aq. HCl. The resulting yellow mixture was concentrated to dryness on a rotary evaporator and the residue was partitioned between dichloromethane and saturated aq. sodium bicarbonate solution The aqueous layer was extracted with two additional portions of dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate and concentrated on a rotary evaporator to yield the desired (R)-2-amino-3-cyclohexyl-1-[4-(2-methoxyphenyl)-piperazin-1-yl]-propan-1-one (2.10 g, 98% yield), which was characterized as its dihydrochloride salt by conversion with ethereal HCl to yield the white solid; mp=165-168° C.; MS(+)ESI m/z=346 (M+H)+.

reactant | (R)-{1-Cyclohexylmethyl-2-[4-(2-methoxyphenyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 6.20 mmol, 2.75 g | C(C)(C)(C)OC(N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)CC1CCCCC1)=O | C25H39N3O4
solvent | HCl | 6N, 30 mL | Cl | ClH
product | (R)-2-amino-3-cyclohexyl-1-[4-(2-methoxyphenyl)-piperazin-1-yl]-propan-1-one | 2.10 g, 98% yield | N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)CC1CCCCC1 | C20H31N3O2
